data/oMe_Silver.jsonl
{"reaction_id": "NR-214_1-c3ccccc3","level": "medium","name": "Payne Rearrangement","reactants_smiles": ["C12C(CCCC1(c3ccccc3)O)O2"],"products_smiles": ["C12C(CCCC1(c3ccccc3)O2)O"],"conditions": "Acid-catalyzed","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(c3ccccc3)O)[OH+]2","step_weight": 0,"rationale": "Protonation of the epoxide oxygen by acid increases the electrophilicity of the adjacent carbons through inductive withdrawal, making them more susceptible to nucleophilic attack."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C12C(CCCC1(c3ccccc3)[OH+]2)O","step_weight": 0,"rationale": "The neighboring hydroxyl oxygen attacks the more substituted, proton-activated epoxide carbon, driven by intramolecular proximity and relief of ring strain, forming a new epoxide ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(c3ccccc3)O2)O","step_weight": 0,"rationale": "Deprotonation restores the neutral epoxy alcohol, favored by the stability of the product and removal of positive charge under acidic equilibrium conditions."}],"description": "Under acidic conditions, the epoxide oxygen is protonated to increase electrophilicity. The adjacent hydroxyl group then intramolecularly attacks, opening the ring and forming a new epoxide via rearrangement. Final deprotonation restores neutrality, yielding the rearranged epoxy alcohol."}
{"reaction_id": "NR-309_1-C(=O)OCC_2-C_3-S(=O)(=O)C_4-c1ccccc1_5-c1sccc1_6-Br_7-P(c1ccc(F)cc1)c2ccc(F)cc2","level": "medium","name": "Trost Asymmetric Allylation Alkylation","reactants_smiles": ["C(=O)OCCC(C)=C(S(=O)(=O)C)C(c1ccccc1)(c1sccc1)(Br)","COC(=O)CC(=O)OC","[Pd]"],"products_smiles": ["COC(=O)C(C(=O)OC)C(c1ccccc1)(c1sccc1)/C(S(=O)(=O)C)=C(C)(C(=O)OCC)"],"conditions": "Chiral Ligand, Base, Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C(=O)OCC)(C)=C(S(=O)(=O)C)C([Pd](Br)(P(c1ccc(F)cc1)c2ccc(F)cc2)(P(c1ccc(F)cc1)c2ccc(F)cc2))(c1ccccc1)(c1sccc1)","step_weight": 0,"rationale": "Pd(0) undergoes oxidative addition to the allylic substrate due to the high reactivity of the allyl moiety and stabilization of the resulting π-allyl Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[CH-]C(=O)OC","step_weight": 0,"rationale": "The base deprotonates the methylene between two carbonyls, as the α-protons are strongly acidified by resonance stabilization of the resulting enolate."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "COC(=O)C(C(=O)OC)C(c1ccccc1)(c1sccc1)/C1(S(=O)(=O)C)[Pd](P(c1ccc(F)cc1)c2ccc(F)cc2)(P(c1ccc(F)cc1)c2ccc(F)cc2)C1(C)(C(=O)OCC)","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic π-allyl Pd complex, with chiral ligand control directing stereoselective C–C bond formation."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "COC(=O)C(C(=O)OC)C(c1ccccc1)(c1sccc1)/C(S(=O)(=O)C)=C(C)(C(=O)OCC)","step_weight": 0,"rationale": "Product dissociates as Pd–C bond breaks, driven by the stability of the neutral organic product and regeneration of the active Pd(0) catalyst."}],"description": "The Pd-catalyzed asymmetric allylation proceeds via oxidative addition of the allylic substrate to Pd(0), generating a π-allyl Pd complex. A base deprotonates the nucleophile, which then attacks the π-allyl complex in a stereocontrolled fashion, followed by product release and catalyst regeneration."}
